US05578627
To a solution of 0.54 g of (R)-3-(2-amino-3-methylthiopropoxy)-5-chloro-1,2-benzoisoxazole in 5 ml of methylene chloride is added 0.43 g of m-chloroperbenzoic acid with ice-cooling, and they are subjected to reaction at the same temperature for 30 minutes, after which 0.21 g of m-chloroperbenzoic acid is added and they are subjected to reaction for a further 30 minutes at the same temperature. After completion of the reaction, a saturated aqueous sodium hydrogencarbonate solution is added and shaken, after which the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, and the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluant:chloroform:methanol=20:1], to obtain 0.14 g of oily (R)-3-(2-amino-3-methanesulfinylpropoxy)-5-chloro-1,2-benzoisoxazole (Compound No. 139-1) and 0.38 g of oily (R)-3-(2-amino-3-methanesulfonylpropoxy)-5-chloro-1,2-benzoisoxazole (Compound No. 139-2).

reactant | (R)-3-(2-amino-3-methylthiopropoxy)-5-chloro-1,2-benzoisoxazole | 0.54 g | N[C@H](COC1=NOC2=C1C=C(C=C2)Cl)CSC | C11H13ClN2O2S
reactant | m-chloroperbenzoic acid | 0.43 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 0.21 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (R)-3-(2-amino-3-methanesulfinylpropoxy)-5-chloro-1,2-benzoisoxazole | 0.14 g | N[C@H](COC1=NOC2=C1C=C(C=C2)Cl)CS(=O)C | C11H13ClN2O3S
